US07842713B2
Preparation of Intermediate 389e: Methyl 2-isobutyl-5-[4-(methylsulfonyl)phenoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate
A mixture of methyl 5-hydroxy-2-isobutyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate (250 mg, 0.90 mmol), 4-fluorophenyl methyl sulfone (236 mg, 1.35 mmol), Cs2CO3 (441 mg, 1.35 mmol) and CuI (100 mg, 1 mmol) in DMF (20 mL) was heated to 100° C. for 4 hours. The solvent was removed under reduced pressure. The residue was poured into water (20 mL) and extracted with EtOAc (50 mL×2). The combined organic layers was washed with brine (20 mL×2), dried over Na2SO4 and concentrated. The product was purified via column chromatography on silica gel eluted with 10-30% EtOAc in hexanes to afford the ether (312 mg, 78%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 0.97 (d, J=6.78 Hz, 6 H) 1.94-2.16 (m, 1 H) 2.94 (t, J=6.59 Hz, 2 H) 3.04-3.16 (m, 3 H) 3.41 (d, J=7.54 Hz, 2 H) 3.55 (t, J=6.59 Hz, 2 H) 3.87-4.01 (m, 3 H) 7.00-7.11 (m, 2 H) 7.80 (d, J=1.70 Hz, 1 H) 7.88-8.00 (m, 2H) 8.66 (d, J=1.51 Hz, 1 H); MS (ESI, pos): 432.

reactant | methyl 5-hydroxy-2-isobutyl-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate | 0.90 mmol, 250 mg | OC1=C2CCN(C(C2=CC(=C1)C(=O)OC)=O)CC(C)C | C15H19NO4
reactant | 4-fluorophenyl methyl sulfone | 1.35 mmol, 236 mg | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | Cs2CO3 | 1.35 mmol, 441 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 1 mmol, 100 mg | [Cu]I
product | Methyl 2-isobutyl-5-[4-(methylsulfonyl)phenoxy]-1-oxo-1,2,3,4-tetrahydroisoquinoline-7-carboxylate | C(C(C)C)N1C(C2=CC(=CC(=C2CC1)OC1=CC=C(C=C1)S(=O)(=O)C)C(=O)OC)=O | C22H25NO6S
